US07632850B2
13.1. 2-[4-(1H-pyrrolo[2,3-b]pyridin-1-yl)phenyl]ethanol
A mixture of 1.24 g (5 mmol) of 2-(4-iodophenyl)ethanol, 0.62 g (5.25 mmol) of 7-azaindole, 2.33 g (11.0 mmol) of potassium phosphate, 0.082 g (1.0 mmol) of N,N′-dimethylethylenediamine and 0.095 g (0.50 mmol) of cuprous iodide in 4 ml of toluene is heated at 80° C. overnight with thorough stirring under an argon atmosphere. The mixture is cooled to ambient temperature and diluted with 150 ml of ethyl acetate and 50 ml of water. After the phases have settled and been separated, the organic phase is washed with 25 ml of water and 25 ml of saturated aqueous sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on silica gel, eluting with a 70/30 then 60/40 and 50/50 mixture of cyclohexane and ethyl acetate, to give 1.05 g of product in the form of an oil.

reactant | 2-(4-iodophenyl)ethanol | 5 mmol, 1.24 g | IC1=CC=C(C=C1)CCO | C8H9IO
reactant | 7-azaindole | 5.25 mmol, 0.62 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | potassium phosphate | 11.0 mmol, 2.33 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 1.0 mmol, 0.082 g | CNCCNC | C4H12N2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-[4-(1H-pyrrolo[2,3-b]pyridin-1-yl)phenyl]ethanol | 1.05 g | N1(C=CC=2C1=NC=CC2)C2=CC=C(C=C2)CCO | C15H14N2O
